US06566356B2
By carrying out the operation according to the procedure of Example 24, but starting with 0.21 g of N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-phenylsulfonamide, 17 mg of 80% sodium hydride and introducing iodomethane in two portions at an interval of 3 hours. 80 mg of N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-N-methylphenylsulfonamide are thus obtained in the form of a white lacquer [1H NMR spectrum (300 MHz, CDCl3, δ in ppm): 2.70 (s: 3H); 3.03 (broad t, J=7.5 Hz: 2H); 3.37 (broad t, J=7.5 Hz: 2H); 3.94 (mt: 1H); 4.28 (s: 1H); from 7.20 to 7.35 (mt: 8H); from 7.45 to 7.65 (mt: 3H); 7.74 (broad d, J=8 Hz: 2H)].

reactant | N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-phenylsulfonamide | 0.21 g | ClC1=CC=C(C=C1)C(N1CC(C1)NS(=O)(=O)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C22H20Cl2N2O2S
reactant | sodium hydride | 17 mg | [H-].[Na+]
reactant | iodomethane | IC | CH3I
product | N-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-N-methylphenylsulfonamide | 80 mg | ClC1=CC=C(C=C1)C(N1CC(C1)N(S(=O)(=O)C1=CC=CC=C1)C)C1=CC=C(C=C1)Cl | C23H22Cl2N2O2S
